* NGSPICE file created from Nand_Gate.ext - technology: sky130A

.subckt sky130_fd_pr__pfet_g5v0d10v5_CY7YBN a_n130_n144# a_72_n144# w_n330_n441# a_n72_n241#
X0 a_72_n144# a_n72_n241# a_n130_n144# w_n330_n441# sky130_fd_pr__pfet_g5v0d10v5 ad=0.4176 pd=3.46 as=0.4176 ps=3.46 w=1.44 l=0.72
.ends

.subckt sky130_fd_pr__nfet_g5v0d10v5_3Y2F6P a_n202_n144# a_n144_n232# a_144_n144#
+ a_n336_n366#
X0 a_144_n144# a_n144_n232# a_n202_n144# a_n336_n366# sky130_fd_pr__nfet_g5v0d10v5 ad=0.4176 pd=3.46 as=0.4176 ps=3.46 w=1.44 l=1.44
.ends

.subckt Nand_Gate GND VDD A B Vout
XXM1 VDD Vout VDD B sky130_fd_pr__pfet_g5v0d10v5_CY7YBN
XXM2 Vout VDD VDD A sky130_fd_pr__pfet_g5v0d10v5_CY7YBN
XXM3 m1_2428_n226# B Vout GND sky130_fd_pr__nfet_g5v0d10v5_3Y2F6P
XXM4 GND A m1_2428_n226# GND sky130_fd_pr__nfet_g5v0d10v5_3Y2F6P
.ends

